US09102664B2
Step-a): Preparation of ((3R,5R)-5-((1H-1,2,4-triazol-1-yl)methyl)-5-(2,4-difluoro phenyl)tetrahydrofuran-3-yl)methanol (Formula-9)
Added 4-dimethylaminopyridine (8.61 g) and sodium tertiary butoxide (339 g) to a mixture of dimethylformamide (2500 ml) and 1,2,4-triazole (243.6 g) and stirred the reaction mixture for 30-45 minutes at 25-35° C. ((3R,5R)-5-(2,4-difluorophenyl)-5-(iodomethyl)tetrahydrofuran-3-yl)methanol compound of formula-8 (250 g) was added to the reaction mixture. The reaction mixture was heated to 100-110° C. and stirred for 18 hours at the same temperature. After completion of the reaction, the reaction mixture was cooled to 25-35° C. and then poured into water. Added dichloromethane to the reaction mixture. Both organic and aqueous layers were separated and the aqueous layer was extracted with dichloro methane. The combined dichloromethane layers were extracted with 50% aqueous HCl and separating both the aqueous and organic layers then pH of the aq. layer was adjusted to 8-9 with 50% aqueous sodium hydroxide. Both organic and aqueous layers were separated and the aqueous layer was extracted with ethyl acetate. The ethyl acetate layer was washed with water followed by sodium chloride solution and then distilled to get title compound as a residue. The obtained residue containing the title compound of formula-9 was taken to next step without isolation.

reactant | sodium tertiary butoxide | 339 g | CC(C)([O-])C.[Na+]
reactant | dimethylformamide | 2500 ml | CN(C=O)C | C3H7NO
reactant | 1,2,4-triazole | 243.6 g | N1N=CN=C1 | C2H3N3
reactant | ((3R,5R)-5-(2,4-difluorophenyl)-5-(iodomethyl)tetrahydrofuran-3-yl)methanol | FC1=C(C=CC(=C1)F)[C@]1(C[C@@H](CO1)CO)CI | C12H13F2IO2
catalyst | 4-dimethylaminopyridine | 8.61 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | ((3R,5R)-5-((1H-1,2,4-triazol-1-yl)methyl)-5-(2,4-difluoro phenyl)tetrahydrofuran-3-yl)methanol | N1(N=CN=C1)C[C@@]1(C[C@@H](CO1)CO)C1=C(C=C(C=C1)F)F | C14H15F2N3O2
